Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
This is a ___ year old man with HIV, cirrhosis (nodular
regenerative hyperplasia thought secondary to HAART), recent
esophageal varix bleed banded on ___ who presents as a referral
for PCP due to persistent anemia. 

He had recent admission to the ET service with variceal bleeding
in ___ of this year. His hgb on discharge was 8.1. The varices
were unable to be banded during EGD on that admission, so he had
an elective EGD on ___. After that procedure, which was very
uncomfortable for him, he notes abdominal pain and a few days of
dark stools. Since then he has been feeling quite well and has
been back to work. He had a follow up blood test on ___ which
revealed a persistent severe anemia, so he was referred to the 
ED
by his PCP.

 
Past Medical History:
HIV (CD4 193, VL <75 copies/ml ___ h/o of AIDS, PCP 
DM2 (A1c 7.0 on ___
H/o hepatitis A and B in the ___
Cirrhosis c/b portal hypertension, esophageal varices

 
Social History:
___
Family History:
-Mother died of lung cancer, s/p stroke
-Father died of heart condition, ___
No family history of celiac disease, IBD, and GI malignancies.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  T 98.1 HR86 BP140/55 RR16 100% RA 
GENERAL: NAD, cachectic and pale appearing man
HEENT: anicteric sclera, MMM, with temporal wasting
CV: RRR, S1 and fixed split S2  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: warm and well perfused, no excoriations or lesions, no
rashes 
 

DISCHARGE PHYSICAL EXAM:
========================
VS: Temp: 97.9 BP: 113/68 HR: 65 RR: 18 O2 sat: 98% RA
GENERAL: NAD, cachectic and pale appearing man
HEENT: anicteric sclera, MMM, with temporal wasting,
Hepatic jugular distension
CV: RRR, S1 and S2  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no palpable hepatosplenomegaly. 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
ADMISSION LABS:
___ 11:16PM   WBC-2.6* RBC-3.75* HGB-7.2* HCT-24.8* MCV-66* 
MCH-19.2* MCHC-29.0* RDW-27.1* RDWSD-62.1*
___ 11:16PM   PLT COUNT-113*
___ 04:42PM   WBC-2.6* RBC-3.65* HGB-6.6* HCT-24.1* MCV-66* 
MCH-18.1* MCHC-27.4* RDW-26.4* RDWSD-60.8*
___ 04:42PM   NEUTS-65.4 ___ MONOS-6.3 EOS-0.8* 
BASOS-1.2* NUC RBCS-1.6* IM ___ AbsNeut-1.67 AbsLymp-0.66* 
AbsMono-0.16* AbsEos-0.02* AbsBaso-0.03
___ 04:42PM   HYPOCHROM-2+* ANISOCYT-2+* POIKILOCY-1+* 
MACROCYT-NORMAL MICROCYT-2+* POLYCHROM-OCCASIONAL 
SPHEROCYT-OCCASIONAL OVALOCYT-1+* TARGET-OCCASIONAL 
SCHISTOCY-OCCASIONAL TEARDROP-OCCASIONAL ACANTHOCY-OCCASIONAL 
ELLIPTOCY-OCCASIONAL
___ 04:42PM   PLT SMR-LOW* PLT COUNT-124*
___ 04:42PM   RET AUT-0.2* ABS RET-0.01*
___ 03:59PM   ___ PTT-25.6 ___
___ 12:05PM   GLUCOSE-273* UREA N-10 CREAT-0.9 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-19* ANION GAP-18
___ 12:05PM   ALT(SGPT)-12 AST(SGOT)-15 ALK PHOS-82 TOT 
BILI-0.9
___ 12:05PM   LIPASE-31
___ 12:05PM   ALBUMIN-4.4 IRON-13*
___ 12:05PM   calTIBC-589* FERRITIN-2.5* TRF-453*
___ 12:05PM   %HbA1c-7.2* eAG-160*
___ 12:05PM   WBC-3.4* RBC-3.40* HGB-5.3* HCT-20.9* MCV-62* 
MCH-15.6* MCHC-25.4* RDW-21.8* RDWSD-46.3
___ 12:05PM   NEUTS-69.1 ___ MONOS-6.8 EOS-0.3* 
BASOS-0.9 NUC RBCS-0.9* IM ___ AbsNeut-2.32 AbsLymp-0.71* 
AbsMono-0.23 AbsEos-0.01* AbsBaso-0.03
___ 12:05PM   PLT SMR-NORMAL PLT COUNT-154

IMAGING: NONE

DISCHARGE LABS:

___ 05:44AM BLOOD WBC-2.3* RBC-3.88* Hgb-7.4* Hct-25.6* 
MCV-66* MCH-19.1* MCHC-28.9* RDW-27.8* RDWSD-62.7* Plt ___
___ 05:44AM BLOOD ___ PTT-24.1* ___
___ 05:44AM BLOOD Glucose-128* UreaN-9 Creat-1.0 Na-145 
K-4.4 Cl-108 HCO3-25 AnGap-12
___ 05:44AM BLOOD ALT-11 AST-15 AlkPhos-74 TotBili-1.4
___ 05:44AM BLOOD Albumin-4.0 Calcium-8.7 Phos-2.1* Mg-2.4

MICROBIOLOGY: NONE

IMAGING:
EGD ___:
IMPRESSIONS:
-Varices in the full esophagus
-Ulcer in the distal esophagus likely due to prior banding
-Congestion, petechiae and mosaic mucosal pattern in the stomach 
fundus and stomach body with portal hypertensive gastropathy
-Polyps in the antrum
-Normal mucosa in the whole examined duodenum

 
Brief Hospital Course:
This ia a ___ year old man with HIV and cirrhosis from HAART who
presents for evaluation and treatment of his persistent, 
profound
anemia after EGD and variceal banding on ___.

ACUTE ISSUES: 
=============== 
# Anemia: Pt presents with severe anemia (Hgb 5.3) in the 
setting of
cirrhosis and known esophageal varices, s/p banding on ___. He
had melena for 5 days after the EGD, but has had no bleeding
since then. Iron labs show severe iron deficiency
anemia, consistent with chronic GI losses. Reticulocyte is
inappropriately low at 2% with absolute count 0.01, iron studies 
consistent with severe iron deficiency. Some concern for bone 
marrow failure in the context of low reticulocyte, leukopenia, 
and thrombocytopenia. Pt remained hemodynamically stable and 
otherwise asymptomatic with the exception of mild DOE. He 
received 3u PRBC Hgb increased to 7.2 which remained stable 
during the remainder of his stay. EGD showed no source of bleed 
and grade II esophageal varices. Will have a repeat EGD with 
colonoscopy on ___. Also administered iron 
supplementation, IV Ferric gluconate x2. Hgb on day of discharge 
was 7.4. Notified to arrange outpatient Feraheme infusions with 
PCP given unable to tolerate PO supplementation due to side 
effects. 

# Cirrhosis due to nodular regenerative hyperplasia,
MELD-Na 8, Child Class A, c/b portal hypertension and esophageal
varices. No h/o SBP or hepatic encephalopathy: No abx 
prophylaxis was given as this was a chronic blood loss rather 
than an acute GI bleed. Continued home Pantoprazole 40 mg PO 
Q12H. Held nadolol while inpatient, restarted on discharge. 

# Thrombocytopenia
# Leukopenia
Pt with platelet stably low in the 100-150s since ___ suspect
secondary to liver disease as above. Pt has been stably
leukopenic since ___, and is not neutropenic. Leukopenia may be
due to HIV and HIV related medications. However, given that pt
was unable to recover his Hgb after intervention, it is worth
considering a primary marrow suppression or bone marrow failure
process if no improvement outpatient. Reasonable to
first evaluate marrow response to treatment with iron as above. 

# HIV
Has been complicated by PJP in the past. On ___ CD4 228, HIV 
RNA undetectable. Genvoya was not on formulary, we administered 
Stribild. Continue home Genvoya at discharge.

# Type II Diabetes: Continued home Lantus and HISS. Resumed home 
metformin, glipzide, and glargine at discharge. 

TRANSITIONAL ISSUES:
=====================
ANEMIA
[] Should arrange outpatient IV iron tranfusions with Feraheme 
as unable to tolerate PO supplementation due to side effects. 
[] Encouraged cooking with a cast iron pan 
[] Please recheck CBC within 7 days of discharge to ensure 
stable. 

Cirrhosis 
[] EGD & Colonoscopy scheduled on ___. 
[] Restart nadolol until resolution of esophageal varices
[] Pt reported occasional leg swelling, may consider starting a 
diuretic regimen if necessary

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Testosterone Gel 1% 100 mg TP DAILY 
2. GlipiZIDE 10 mg PO BID 
3. Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Pantoprazole 40 mg PO Q12H 
6. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Nadolol 20 mg PO DAILY 
RX *nadolol 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Glargine 10 Units Bedtime 
3.  Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY  
4.  GlipiZIDE 10 mg PO BID  
5.  MetFORMIN (Glucophage) 1000 mg PO BID  
6.  Pantoprazole 40 mg PO Q12H  
7.  Testosterone Gel 1% 100 mg TP DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic iron-deficiency anemia 
HIV ___ CD4 228, HIV RNA undetectable) h/o of AIDS, PCP  
DM2 (A1c 7.0 on ___  
H/o hepatitis A and B in the ___  
Cirrhosis due to nodular regenerative hyperplasia c/b portal 
hypertension, esophageal varices  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 You were admitted to the hospital because you were anemic (low 
red blood cells). We treated you with blood transfusions. We 
also did scope to look at your esophageal varices which did not 
show any bleeding. You improved and were ready to leave the 
hospital. Take all of your medications as prescribed (listed 
below) Keep your follow up appointments with your doctors, 
importantly your repeat EGD (scope) on ___. Please 
stick to a low salt diet and monitor your fluid intake. If you 
experience any of the danger signs listed below please call your 
primary care doctor or come to the emergency department 
immediately.

It was a pleasure participating in your care. We wish you the 
best!  
 - Your ___ Care Team 
 
Followup Instructions:
___